US07642264B2
Step 1) A mixture of 3-bromopyridine-5-boronic acid [CAS-no. 452972-09-7] (10 g, 50 mmol) and N-methyldiethanolamine (5.9 g, 50 mmol) in toluene (50 mL) was stirred at 23° C. for 24 h, then totally evaporated, triturated with heptane to give 2-(5-bromo-pyridin-3-yl)-6-methyl-[1,3,6,2]dioxazaborocane (14.1 g, 100%) as an off-white solid. MS (ISP) 285.0 [(M+H)+].

reactant | 3-bromopyridine-5-boronic acid | 50 mmol, 10 g | BrC=1C=NC=C(C1)B(O)O | C5H5BBrNO2
reactant | N-methyldiethanolamine | 50 mmol, 5.9 g | CN(CCO)CCO | C5H13NO2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-bromo-pyridin-3-yl)-6-methyl-[1,3,6,2]dioxazaborocane | 14.1 g, 100% | BrC=1C=C(C=NC1)B1OCCN(CCO1)C | C10H14BBrN2O2
